US05929085
(b) 9-Nitro-1,2,3,5,6,10b-hexahydropyrrolo[2,1-a]isoquinoline hydrochloride
To concentrated sulfuric acid (200 ml) at -10° C. was added portionwise 1,2,3,5,6,10b-hexahydropyrrolo[2,1-a]isoquinoline (20.5 g, 118 mmol) over 2 h. After addition was complete, potassium nitrate (1 1.6 g, 0.115 mol) was added portionwise over 3 h. The reaction mixture was stirred for an additional 3 h and then poured onto ice and made basic with concentrated ammonium hydroxide. The product was extracted twice with dichloromethane. The dried (magnesium sulfate) organic phase was concentrated to give a red oil which was immediately dissolved in isopropanol (200 ml) and made acidic with saturated isopropanol-HCl. The resulting precipitate was collected to give a tan solid (18.9 g). Recrystallization from 95% ethanol (100 ml) afforded the title compound as an off-white solid (11.5 g, 62%), m.p. 243-5° C. This was converted to the free base by dissolving in water, making basic with dilute base, and extracting with dichloromethane to give 96% recovery of the product.

reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1,2,3,5,6,10b-hexahydropyrrolo[2,1-a]isoquinoline | 118 mmol, 20.5 g | C1CCN2C1C1=CC=CC=C1CC2 | C12H15N
reactant | potassium nitrate | 0.115 mol, 1.6 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | isopropanol-HCl | Cl.C(C)(C)O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 9-Nitro-1,2,3,5,6,10b-hexahydropyrrolo[2,1-a]isoquinoline hydrochloride | 18.9 g | Cl.[N+](=O)([O-])C1=CC=C2CCN3C(C2=C1)CCC3 | InChI=1S/C12H14N2O2.ClH/c15-14(16)10-4-3-9-5-7-13-6-1-2-12(13)11(9)8-10;/h3-4,8,12H,1-2,5-7H2;1H
